US06492416B1
To a stirred solution of 4-bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone (170 mg) in 30 ml toluene and 10 ml ethanol, were added 25 mg of tetrakis(triphenylphosphine)palladium(0), 10 ml of saturated aqueous sodium carbonate, and 120 mg of 3-nitrobenzeneboronic acid. The reaction solution was stirred at 90° C. for 12 hours. Then the solvent was removed under reduced pressure. The resulting residue was extracted with water and dichloromethane (50 ml×3). The organic layer was concentrated in vacuo and the resulting residue was separated by column chromatography (hexane/ethylacetate) to afford 100 mg of 2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-4-(3-nitrophenyl)-3(2H)-furanone as a solid. mp: 158-159° C. NMR: δ1.61 (s, 6H), 3.09 (s, 3H), 7.57 (t, J=7.8 Hz, 1H), 7.64 (m, 1 H), 7.81 (d, J=9.0 Hz, 2H), 7.98 (d, J=8.7 Hz, 2H), 8.19 (m, 2H). IR (cm−1): 2982, 1697, 1529, 1403, 1349, 1150, 959, 770.

reactant | 4-bromo-2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 170 mg | BrC=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)C)=O | C13H13BrO4S
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-nitrobenzeneboronic acid | 120 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2-dimethyl-5-{4-(methylsulfonyl)phenyl}-4-(3-nitrophenyl)-3(2H)-furanone | 100 mg | CC1(OC(=C(C1=O)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)S(=O)(=O)C)C | C19H17NO6S
